US07238689B2
A solution of 0.37 g (9.7 mmoles) of lithium aluminum hydride dissolved in 100 ml of THF was cooled to −50° C. Thereto was gradually added dropwise a solution of 2.0 g (9.8 mmoles) of methyl 4-trifluoromethylnicotinate dissolved in 30 ml of THF. The mixture was stirred at −50° C. for 3 hours to give rise to a reaction. After confirmation of the completion of the reaction, ethyl acetate was added, followed by stirring for a while. Water was added, followed by stirring for a while. The reaction mixture was filtered under vacuum. The filtrate was extracted with ethyl acetate. The resulting organic layer was washed with water and an aqueous sodium chloride solution and then dried over anhydrous magnesium sulfate. The resulting solution was subjected to vacuum distillation to remove the solvent contained therein. The residue was purified by silica gel column chromatography (developing solvent: hexane-ethyl acetate mixed solvent) to obtain 0.6 g (yield: 35.3%) of (4-trifluoromethylpyridin-3-yl)-methanol as a yellow oily substance.

reactant | lithium aluminum hydride | 9.7 mmoles, 0.37 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | methyl 4-trifluoromethylnicotinate | 9.8 mmoles, 2.0 g | FC(C1=CC=NC=C1C(=O)OC)(F)F | C8H6F3NO2
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
reactant | Water | O | H2O
solvent | THF | 100 ml | C1CCOC1 | C4H8O
solvent | THF | 30 ml | C1CCOC1 | C4H8O
product | (4-trifluoromethylpyridin-3-yl)-methanol | 0.6 g, yield: 35.3% | FC(C1=C(C=NC=C1)CO)(F)F | C7H6F3NO
